US08283353B2
4-(1,4-dioxaspiro[4.5]dec-8-yl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-2-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (396 mg), sodium hydrogen carbonate (638 mg) and dimethyl sulfoxide (3 mL) was stirred at 60° C. for 30 min, 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (220 mg) was added, and the mixture was stirred at 90° C. for 20 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (3 mL). N,N′-Carbonyldiimidazole (75 mg) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (70 mg) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=70/30→30/70 (volume ratio)] to give the title compound as a colorless amorphous compound (162 mg, 67%).

reactant | hydroxylammonium chloride | 396 mg | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 638 mg | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
reactant | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 220 mg | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=C(N1)C(F)(F)F | C31H30F3N5O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1,4-dioxaspiro[4.5]dec-8-yl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-2-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)CCC)N=C(N1)C(F)(F)F | C32H31F3N6O5
